US08003649B2
Ethyl 3-(piperidin-4-yl)benzoate (1.195 g, 5.12 mmol) was added to 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine (1 g, 4.49 mmol) and DIPEA (1.174 mL, 6.74 mmol) in DMA (10 mL). The resulting solution was stirred at 125° C. for 2 hours. The reaction mixture was evaporated to dryness, redissolved in DCM and purified by flash silica chromatography, eluting with 50% EtOAc in isohexane. Pure fractions were evaporated to dryness to give a beige solid, which was triturated with ether to give ethyl 3-[1-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)piperidin-4-yl]benzoate (0.805 g, 42.7%) as a solid.

reactant | Ethyl 3-(piperidin-4-yl)benzoate | 5.12 mmol, 1.195 g | N1CCC(CC1)C=1C=C(C(=O)OCC)C=CC1 | C14H19NO2
reactant | 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | 4.49 mmol, 1 g | ClC=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C6H2ClF3N4
reactant | DIPEA | 6.74 mmol, 1.174 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMA | 10 mL | CC(=O)N(C)C | C4H9NO
product | ethyl 3-[1-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)piperidin-4-yl]benzoate | 0.805 g, 42.7% | FC(C1=NN=C2N1N=C(C=C2)N2CCC(CC2)C=2C=C(C(=O)OCC)C=CC2)(F)F | C20H20F3N5O2
